US09079889B2
Synthesis of N-(4-(3-amino-4-hydroxycyclohexyl)pyridin-3-yl)-6-(2,6-difluorophenyl)-5-fluoropicolinamide
A solution of tert-butyl 5-(3-(6-bromo-5-fluoropicolinamido)pyridin-4-yl)-2-oxohexahydrobenzo[d]oxazole-3(2H)-carboxylate (1.0 equiv), 2,6-difluorophenyl boronic acid (3.0 equiv.), tetrakistriphenylphosphine (0.2 equiv.) and triethylamine (3.0 equiv.) in 1:1 EtOH/toluene (0.1 M) was heated at 120° C. with microwave irradiation for 1200 seconds. Upon cooling, removal of the volatiles in vacuo, the Suzuki product was directly purified by reverse phase HPLC. The product fraction was lyophilized and the resulting cyclic carbamate and Boc groups were deprotected as described in Method 9 yielding, after RP HPLC purification and lyophilization, N-(4-(3-amino-4-hydroxycyclohexyl)pyridin-3-yl)-6-(2,6-difluorophenyl)-5-fluoropicolinamideas the TFA salt. LCMS (m/z): 443.2 (MH+); LC Rt=2.11 min.

reactant | tert-butyl 5-(3-(6-bromo-5-fluoropicolinamido)pyridin-4-yl)-2-oxohexahydrobenzo[d]oxazole-3(2H)-carboxylate | 1.0 equiv | BrC1=C(C=CC(=N1)C(=O)NC=1C=NC=CC1C1CCC2C(N(C(O2)=O)C(=O)OC(C)(C)C)C1)F | C23H24BrFN4O5
reactant | 2,6-difluorophenyl boronic acid | 3.0 equiv. | FC1=C(C(=CC=C1)F)B(O)O | C6H5BF2O2
reactant | triethylamine | 3.0 equiv. | C(C)N(CC)CC | C6H15N
solvent | EtOH toluene | 0.1 M | CCO.C1(=CC=CC=C1)C
product | N-(4-(3-amino-4-hydroxycyclohexyl)pyridin-3-yl)-6-(2,6-difluorophenyl)-5-fluoropicolinamide | NC1CC(CCC1O)C1=C(C=NC=C1)NC(C1=NC(=C(C=C1)F)C1=C(C=CC=C1F)F)=O | C23H21F3N4O2
